US07507740B2
Production of 2-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethanol
A mixture of 2-[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate (1.037 g), 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline (863 mg) and 1-methyl-2-pyrrolidone (10 mL) was stirred at 120° C. for 1.5 hrs. Water and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer washed successively with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (eluent, ethyl acetate:hexane=50:50→100:0). The object fraction was concentrated under reduced pressure. To a solution of the residue (1.420 g) in methanol (30 mL) was added 1N aqueous sodium hydroxide solution (3 mL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (eluent, methanol:ethyl acetate=0:100→5:95). The object fraction was concentrated under reduced pressure. The precipitated crystals were collected by filtration, and washed with diethyl ether. The crude crystals were recrystallized from ethyl acetate-diisopropyl ether to give the title compound (933 mg) as a white powder.

reactant | 2-[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate | 1.037 g | C(C1=CC=CC=C1)(=O)OCCOCCN1C=CC=2N=CN=C(C21)Cl | C17H16ClN3O3
reactant | 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline | 863 mg | ClC=1C=C(N)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C13H9ClF3NO
reactant | 1-methyl-2-pyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | Water | O | H2O
product | 2-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethanol | 933 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCOCCO | C23H20ClF3N4O3
